US08247430B2
1-methyl-4-phenylpiperidine
To a stirring mixture at RT of 4-phenylpiperidine (5.24 g, 32.48 mmol) in CH3CN (95 ml) was added a 37% solution of HCHO in H2O (13 ml). To this mixture was added NaCNBH3 (3.27 g, 51.97 mmol). AcOH was added dropwise every 10 min over the next h to maintain the reaction pH near 7. The reaction volume was then reduced in vacuo. The reaction mix was diluted with CH2Cl2 and washed with 2N NaOH and then brine. The crude was concentrated in vacuo and eluted through a silica gel column with 10% MeOH/CH2Cl2. The 1-methyl-4-phenylpiperidine was concentrated in vacuo, yielding a clear oil.

reactant | 4-phenylpiperidine | 32.48 mmol, 5.24 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | HCHO | C=O | CH2O
reactant | NaCNBH3 | 51.97 mmol, 3.27 g | [BH3-]C#N.[Na+]
reactant | AcOH | CC(=O)O | C2H4O2
solvent | CH3CN | 95 ml | CC#N | C2H3N
solvent | H2O | 13 ml | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-methyl-4-phenylpiperidine | CN1CCC(CC1)C1=CC=CC=C1 | C12H17N
